US09315602B2
(ii) Synthesis of 2,7-diphenyl-3,6-di-tert-butylfluorene
Under a nitrogen atmosphere, 8.15 g (18.7 mmol) of 2,7-dibromo-3,6-di-tert-butylfluorene, 1.08 g (0.93 mmol) of Pd(PPh3), and 120 mL of dry 1,2-dimethoxyethane were put into a 300-mL three-necked flask and then stirred at room temperature for 20 minutes. To this solution, 20 mL of a solution of 5.01 g (41.1 mmol) of phenylboronic acid in ethanol was added, the resulting solution was stirred at room temperature for 20 minutes, and then 37.4 mL (74.8 mmol) of an aqueous solution of 2.0-M sodium carbonate was added thereto. Then, the product was heated for 18 hours under reflux, left to stand to cool, and quenched with dilute hydrochloric acid in an ice bath. Ether was added thereto, the soluble part in ether was extracted, and the organic layer was washed twice with an aqueous solution of saturated sodium hydrogen carbonate, further twice with water, and further twice with a saturated salt solution and then dehydrated with magnesium sulfate. The solvent was distilled off, and then the obtained solid was separated by column chromatography to obtain an objective (amount: 4.36 g and yield: 54%).

reactant | 2,7-dibromo-3,6-di-tert-butylfluorene | 18.7 mmol, 8.15 g | BrC1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)Br | C21H24Br2
reactant | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
reactant | phenylboronic acid | 41.1 mmol, 5.01 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,7-diphenyl-3,6-di-tert-butylfluorene | yield: 54% | C1(=CC=CC=C1)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C33H34
